US08389523B2
37.8 g (0.11 mol) of 2-bromo-N-(diphenylmethylene)aniline was dissolved in toluene (100 ml), and 14.6 g (0.13 mol) of 2-amino-6-picoline, 5.2 g (5.5 mmol) of tris(dibenzylideneacetone)dipalladium(0), 11.2 g (17.6 mmol) of 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl, and 15.2 g (0.15 mol) of sodium-t-butoxide were added thereto. The mixture was stirred for 2 hours at 100° C. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was washed with methanol to obtain 42.1 g (yield: >99%) of N1-(diphenylmethylene)-N2-(6-methylpyridine-2-yl)benzene-1,2-diamine.

reactant | 2-bromo-N-(diphenylmethylene)aniline | 0.11 mol, 37.8 g | BrC1=C(N=C(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C19H14BrN
reactant | 2-amino-6-picoline | 0.13 mol, 14.6 g | NC1=NC(=CC=C1)C | C6H8N2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 17.6 mmol, 11.2 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium-t-butoxide | 0.15 mol, 15.2 g | CC(C)([O-])C.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 5.5 mmol, 5.2 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | N1-(diphenylmethylene)-N2-(6-methylpyridine-2-yl)benzene-1,2-diamine | 42.1 g, yield: >99% | C1(=CC=CC=C1)C(=NC=1C(=CC=CC1)NC1=NC(=CC=C1)C)C1=CC=CC=C1 | C25H21N3
